US08377930B2
To a solution of benzo[b]thiophene-2-carbaldehyde (2.19 g, 13.5 mmol) in anhydrous THF (200 mL) was added a solution of NaHSO3 (6.18 g, 59.4 mmol) in water (50 mL). KCN (3.248 g, 49.9 mmol) was added and the mixture was stirred at room temperature for 22 hours. The reaction mixture was then heated at 45° C. for 1 hour. After cooling to room temperature, the mixture was diluted with water and brine and extracted with EtOAc three times. The combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (0-25% EtOAc-hexanes) gave 2-(benzo[b]thiophen-2-yl)-2-hydroxyacetonitrile as an off-white solid (1.09 g, 46% yield).

reactant | benzo[b]thiophene-2-carbaldehyde | 13.5 mmol, 2.19 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | NaHSO3 | 59.4 mmol, 6.18 g | OS(=O)[O-].[Na+]
reactant | KCN | 49.9 mmol, 3.248 g | [C-]#N.[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 2-(benzo[b]thiophen-2-yl)-2-hydroxyacetonitrile | 1.09 g, 46% yield | S1C2=C(C=C1C(C#N)O)C=CC=C2 | C10H7NOS
